US06825191B2
Step 1: Synthesis of 4-(4-chlorobenzoyl)-1-(2-propynyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
50 mg (0.17 mmol) of 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on was dissolved in 4 ml of DMF. 7 mg (0.18 mmol) of sodium hydride was added, to the obtained solution, and they were stirred at room temperature for 30 minutes. 30 mg (0.25 mmol) of 3-bromopropyne was added to the obtained solution, and they were stirred at room temperature overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was purified by the silica gel column chromatography.

reactant | 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | 0.17 mmol, 50 mg | ClC1=CC=C(C(=O)N2CC(NC3=C(C2)C=CC=C3)=O)C=C1 | C16H13ClN2O2
reactant | sodium hydride | 0.18 mmol, 7 mg | [H-].[Na+]
reactant | 3-bromopropyne | 0.25 mmol, 30 mg | BrCC#C | C3H3Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-(4-chlorobenzoyl)-1-(2-propynyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC=C3)CC#C)=O)C=C1 | C19H15ClN2O2
